US06498165B1
2-[4-Pyridylmethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 4-(aminomethyl)pyridine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (CI): 303.1 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.61 (d, J=5.8 Hz, 2H); 8.57 (br s, 1H); 8.44 (d, J=5.5 Hz, 1H); 7.85 (d, J=8.0 Hz, 1H); 6.89 (d, J=5.5 Hz, 1H); 5.96 (br s, 1H); 4.78 (d, J=6.4 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 4-(aminomethyl)pyridine | NCC1=CC=NC=C1 | C6H8N2
product | 2-[4-Pyridylmethylamino]-4-[benzimidazol-1-yl]pyrimidine | N1=CC=C(C=C1)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C17H14N6
